US09102692B2
2-[5-Amino-1-(2-methyl-1H-benzimidazol-5-yl)-1H-pyrazole-4-carbonyl]-1-(toluene-4-sulfonyl)-1H-indole-5-carboxylic acid (113 mg) was dissolved in water (5 ml) and tetrahydrofuran (THF) (10 ml), and then morpholine (53.5 μl) and N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (WSC-HCl) (43 mg) were added thereto. The mixture was stirred at room temperature for 24 hours. The reaction mixture was then concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (methanol/dichloromethane=0/100 to 17/100) to give [5-amino-1-(2-methyl-1H-benzimidazol-5-yl)-1H-pyrazol-4-yl]-[5-(morpholine-4-carbonyl)-1-(toluene-4-sulfonyl)-1H-indol-2-yl]-methanone (59 mg).

reactant | 2-[5-Amino-1-(2-methyl-1H-benzimidazol-5-yl)-1H-pyrazole-4-carbonyl]-1-(toluene-4-sulfonyl)-1H-indole-5-carboxylic acid | 113 mg | NC1=C(C=NN1C1=CC2=C(NC(=N2)C)C=C1)C(=O)C=1N(C2=CC=C(C=C2C1)C(=O)O)S(=O)(=O)C1=CC=C(C=C1)C | C28H22N6O5S
reactant | morpholine | 53.5 μl | N1CCOCC1 | C4H9NO
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 43 mg | Cl.CN(CCCN=C=NCC)C
solvent | water | 5 ml | O | H2O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | [5-amino-1-(2-methyl-1H-benzimidazol-5-yl)-1H-pyrazol-4-yl]-[5-(morpholine-4-carbonyl)-1-(toluene-4-sulfonyl)-1H-indol-2-yl]-methanone | 59 mg | NC1=C(C=NN1C1=CC2=C(NC(=N2)C)C=C1)C(=O)C=1N(C2=CC=C(C=C2C1)C(=O)N1CCOCC1)S(=O)(=O)C1=CC=C(C=C1)C | C32H29N7O5S
